US05461036
To 2-bromododecanoic acid (500 mg) dissolved in N,N-dimethylformamide (DMF, 10 ml) at 0° C. were added 60% sodium hydride (163 mg) followed by phenol (154 mg), and the mixture was stirred for 17 hours. Then, the solvent (DMF) was evaporated, and the residue was distributed into water and ethyl acetate. The ethyl acetate layer was dried and concentrated to give 2-phenoxydodecanoic acid (440 mg). To 2-phenoxydodecanoic acid (440 mg) dissolved in DMF were added para-nitrophenol (190 mg) and N,N'-dicyclohexylcarbodiimide (283 mg), and the mixture was stirred for 15 hours. Then, precipitates produced were removed by filtration, and 6-(4'-N-glycylspicaminyl-amino)purine hydrochloride (529 mg) and triethylamine (2.0 ml) were added to the filtrate. The mixture was further stirred for 15 hours. The DMF was evaporated from the reaction mixture, and the residue was subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol (from 7:1 to 5:1) to give SPK242 in the yield of 118 mg.

reactant | 2-bromododecanoic acid | 500 mg | BrC(C(=O)O)CCCCCCCCCC | C12H23BrO2
reactant | sodium hydride | 163 mg | [H-].[Na+]
reactant | phenol | 154 mg | C1(=CC=CC=C1)O | C6H6O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-phenoxydodecanoic acid | 440 mg | O(C1=CC=CC=C1)C(C(=O)O)CCCCCCCCCC | C18H28O3
